US07538109B2
b) 1,3-Dimethyl-1H-quinoxalin-2-one
Reaction between N-methyl-1,2-phenylene-diamine and pyruvic acid gave after recrystallisation (EtOH) the title compound;

reactant | N-methyl-1,2-phenylene-diamine | CNC1=C(C=CC=C1)N | C7H10N2
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
product | 1,3-Dimethyl-1H-quinoxalin-2-one | CN1C(C(=NC2=CC=CC=C12)C)=O | C10H10N2O
